US07459562B2
A) 3-Bromo-5-(hydroxy(phenyl)methyl)pyridin-4-ol
To a heterogeneous mixture of 3,5-dibromo-4-hydroxypyridine (2.53 g, 10 mmol, prepared following the procedure in Synthesis, 2001, 14, 2175-2179) in anhydrous THF (20 mL) at −78° C. under Ar-atm was added phenylmagnesium bromide solution (11 mL of 1 M solution in THF, 11 mmol). After stirring for 15 min. was added n-BuLi solution (5.5 mL of 2 M solution in cyclohexane), and the reaction mixture was stirred for 15 min at −78° C. under Ar-atm. To this mixture benzaldehyde (2.15 mL) was added and the reaction mixture was stirred for 2 h −78° C. under Ar-atm. The reaction mixture was quenched by adding HOAc (3 mL) and TFA (3 mL), concentrated in vacuo and the residue was purified by flash column chromatography on silica gel eluting with hexane/EtOAc/MeOH//750:250:50 followed by hexane/EtOAc/MeOH/Et3N//460:460:50:10 to afford the desired product (2.85 g, 91%) as a white solid. 1H NMR (CD3OD) δ 8.13 (s, 1H), 8.04 (s, 1H), 7.41-7.20 (m, 5H), 5.94 (s, 1H); MS(ESI+) m/z 280, 282 (M+H)+.

reactant | 3,5-dibromo-4-hydroxypyridine | BrC=1C=NC=C(C1O)Br | C5H3Br2NO
reactant | phenylmagnesium bromide | 11 mmol, 1 M, 11 mL | C1(=CC=CC=C1)[Mg]Br
reactant | n-BuLi | 2 M, 5.5 mL | [Li]CCCC
reactant | benzaldehyde | 2.15 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-Bromo-5-(hydroxy(phenyl)methyl)pyridin-4-ol | 2.85 g, 91% | BrC=1C=NC=C(C1O)C(C1=CC=CC=C1)O | C12H10BrNO2
